US06927230B2
Potassium carbonate (279 mg, 2.02 mmol) was added to a solution of 1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazol-3-ol (200 mg, 0.673 mmol) in dimethylformamide (2 mL). After 5 minute stirring, 3-bromo-1-propyne (0.18 mL, 2.02 mmol) was added to the mixture and the mixture was stirred for 4 hours. Ethyl acetate and water were poured into the mixture. The organic layer was separated, washed with water and brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (toluene-ethyl acetate 4:1). The desired product was washed with isopropyl ether, isolated by filtration, and dried in vacuo to give 1,5-bis(4-methoxyphenyl)-3-(2-propynyloxy)-1H-1,2,4-triazole (99 mg, 43.9% yield).

reactant | Potassium carbonate | 2.02 mmol, 279 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazol-3-ol | 0.673 mmol, 200 mg | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)OC)O | C16H15N3O3
reactant | 3-bromo-1-propyne | 2.02 mmol, 0.18 mL | BrCC#C | C3H3Br
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1,5-bis(4-methoxyphenyl)-3-(2-propynyloxy)-1H-1,2,4-triazole | 99 mg, 43.9% yield | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)OC)OCC#C | C19H17N3O3
